US05783593
N-(4-phenoxybenzyl)cyclobutanecarboxamide
To a cooled (0° C.) solution of cyclobutanecarboxylic acid (0.26 g, 2.6 mmol), 4-phenoxybenzylamine hydrochloride (0.62 g, 2.6 mmol), HOBt, (0.71 g, 5.2 mmol) and triethylamine (1.1 mL, 7.83 mmol) in THF (9 mL) was added EDCl (0.55 g, 2.6 mmol). The mixture was stirred for 18 hours at room temperature. The solvent was removed, and the residue was suspended in ether and washed with 0.1N HCl, 5% NaHCO3 and brine. The ether layer was dried (MgSO4), filtered through a plug of silica gel and concentrated in vacuo to provide 0.70 g (96%) of the title compound as a white solid. m.p. 69°-71° C. 1H NMR (CDCl3, 300 MHz) δ1.80-2.06 (m, 2H), 2.10-2.14 (m, 2H), 2.15-2.39 (m, 2H), 3.02 (pd, J=7.5, 1.2 Hz, 1H), 4.41 (d, J=6 Hz, 2H), 5.55 (br s, 1H), 6.94-7.04 (m, 4H), 7.08-7.15 (tt, J=7.5, 1.5 Hz, 1H), 7.20-7.28 (m, 2H), 7.30-7.38 (m, 2H). MS (DCl/NH3) m/e 282 (M+H)+.

reactant | cyclobutanecarboxylic acid | 2.6 mmol, 0.26 g | C1(CCC1)C(=O)O | C5H8O2
reactant | 4-phenoxybenzylamine hydrochloride | 2.6 mmol, 0.62 g | Cl.O(C1=CC=CC=C1)C1=CC=C(CN)C=C1
reactant | HOBt | 5.2 mmol, 0.71 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 7.83 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | EDCl | 2.6 mmol, 0.55 g | CCN=C=NCCCN(C)C.Cl
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | N-(4-phenoxybenzyl)cyclobutanecarboxamide | 0.70 g, 96% | O(C1=CC=CC=C1)C1=CC=C(CNC(=O)C2CCC2)C=C1 | C18H19NO2
